US05705504
To a cooled (0° C.) solution of 2-methoxyaniline (13.2 g, 0.108 mol) in CHCl3 (100 mL) was added ethyl bromoacetate (6 mL, 0.05 mol) and the mixture was stirred at room temperature overnight. The resulting solution was washed with 0.5N NaOH and the organic phase was concentrated to a crude product. This was purified by chromatography on silica gel (hexane-EtOAc, 10%) to afford ethyl N-(2-methoxyphenyl)aminoacetate (4.2 g, 40%). This compound was dissolved in MeOH (80 mL), a solution of K2CO3 (4.4 g) in H2O (50 mL) was added and the mixture was refluxed overnight. MeOH was removed and the resulting aqueous solution was extracted with hexane. The aqueous phase was acidified with 5N HCl and extracted with CHCl3 (3×). Evaporation of the solvent afforded the title compound.

reactant | 2-methoxyaniline | 0.108 mol, 13.2 g | COC1=C(N)C=CC=C1 | C7H9NO
reactant | ethyl bromoacetate | 0.05 mol, 6 mL | BrCC(=O)OCC | C4H7BrO2
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl N-(2-methoxyphenyl)aminoacetate | 4.2 g, 40% | COC1=C(C=CC=C1)NCC(=O)OCC | C11H15NO3
